2140-06-04 08:32:00 Physician Resident Progress Note
Chief Complaint: diarrhea
   24 Hour Events:
   No o/n events
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2140-6-4**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies fever, chills, CP, SOB, abd pain, N/V
   Flowsheet Data as of  [**2140-6-4**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 67 (64 - 75) bpm
   BP: 107/42(58) {101/27(44) - 123/66(82)} mmHg
   RR: 13 (9 - 18) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
    CVP: 4 (3 - 10)mmHg
   Total In:
                                                                     20 mL
                                                                    598 mL
   PO:
   TF:
   IVF:
                                                                     20 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                    260 mL
   Urine:
                                                                    270 mL
                                                                    200 mL
   NG:
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                   -250 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   Physical Examination
   GEN: Awake, alert elderly female in NAD
   HEENT: sclera anicteric; OP clear very dry mucous membranes; NGT in
   place
   NECK: R IJ in place, dressing c/d/i; 2+ carotids no bruit
   CV: irreg irreg nl S1S2 IV/VI cres-decres murmur at base, III/VI
   diastolic murmur at apex
   PULM: scattered rhonchi, decr. breath sounds at bases, no wheezes
   ABD: soft, distended, diffusely tender to deep palpation with some mild
   rebound tenderness diffusely  +BS, no guarding
   EXT: warm, dry; 2+ pitting edema of all 4 ext; distal pulses not
   palpable
   NEURO: A+O x 3
   Labs / Radiology
   211 K/uL
   9.6 g/dL
   94 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   36 mg/dL
   117 mEq/L
   150 mEq/L
   29.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2140-6-3**]  11:27 PM
                             [**2140-6-4**]  05:00 AM
   WBC
   11.8
   12.2
   Hct
   30.2
   29.7
   Plt
   215
   211
   Cr
   1.1
   1.0
   TropT
   0.10
   0.09
   Glucose
   101
   94
   Other labs: PT / PTT / INR:17.1/36.6/1.5, CK / CKMB /
   Troponin-T:17/4/0.09, ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:42/56, Differential-Neuts:89.5 %, Band:0.0 %,
   Lymph:6.6 %, Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:114 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Microbiology: BCx pending
   UCx pending
   C. diff toxin pending
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable off pressors and non-invasive ventilation.
   .
   #CHF - diastolic dysfunction with likely systolic component; markedly
   elevated proBNP
   -repeat TTE
   -gentle diuresis as tolerated by BP, goal -1 L x 24 hrs
   .
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   -PO vanco (pending ID C/S), IV flagyl
   -repeat toxin assay pending
   -KUB to eval. for megacolon
   -non-urgent repeat CT abd/pelvis w&w/o contrast
   -surgical C/S in AM pending CT results (i.e. megacolon, bowel ischemia)
   -serial abd exams
   -rectal tube, NGT decompression
   .
   #Bilateral pulmonary opacities - suspect transudative pleural effusions
   based on degree of volume repletion prior to transfer in the setting of
   heart failure; low clinical suspicion for PNA/parapneumonic effusion
   since afebrile and only mild leukocytosis, but cannot r/o based on CXR
   alone
   -suppl. O2 to maintain sat >92%
   -CT chest w&w/o contrast to r/o loculated effusion
   -will refrain from adding addtional abx at this time
   -BCx pending
   -repeat TTE
   -consider thoracentesis if effusions remain following correction of
   volume status and coagulopathy
   .
   .
   #AFib - low suspicion for acute ischemia based on absence of
   symptomatology and unchanged EKG; low clinical suspicion for PE given
   exam and INR despite PMH
   -cont. amiodarone following load @ OSH; holding digoxin for now to
   avoid interaction
   -may resume anticoagulation (heparin f/b coumadin) if HD stable
   -telemetry
   .
   #CAD - asymptomatic, unchanged EKG on admission, borderline troponin
   -cont. to cycle enzymes
   -ASA 325
   .
   #Dirty U/A - suspect contamination as duration of indwelling foley is
   unknown
   -change out foley then repeat U/A & Cx prior to starting ABX,
   particular in setting of C. diff
   -BCx pending
   .
   #HTN - holding antihypertensives for now, may resume if BP stable off
   pressors
   .
   #Anemia - Hct 30% below b/l 32-36%, but stable
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -guaiac stools
   -obtain history re: colon CA screening
   -follow Hct daily, as no s/sx bleeding
   -x-fuse for <24%
   .
   #Elevated TSH
   -fT4 pending
   .
   # Prophylaxis: SQH, PPI; aspiration/fall precautions
   .
   # F/E/N:
   -NPO except meds for now
   -appreciate nutrition recs (in metavision) - nutren pulmonary to goal
   rate 45 cc/hr x 24 hrs
   -volume goal -1L x 24 hrs
   .
   # Access: PIV. Eval for PICC placement then d/c OSH central line and
   send tip for Cx
   .
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   .
   # Code: FULL
   .
   # Dispo: ICU. Consent pending.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2140-6-3**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2140-06-05 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2140-6-4**] 01:22 PM
   ultrasound of left arm to r/o dvt
   Discussion with pt and family [**2140-6-4**], decision was made to make pt
   DNR/DNI.
   Unsuccessful  R UE PICC line yesterday.  Plan to  attempt L UE today.
   Closely monitored diuresis and BP yesterday.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2140-6-4**] 08:07 AM
   Vancomycin - [**2140-6-4**] 02:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-4**] 02:42 PM
   Heparin Sodium (Prophylaxis) - [**2140-6-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-5**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 74 (67 - 86) bpm
   BP: 125/43(62) {99/36(51) - 161/90(103)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
    CVP: 7 (-1 - 16)mmHg
   Total In:
                                                                  3,191 mL
                                                                    625 mL
   PO:
   TF:
                                                                    386 mL
                                                                    248 mL
   IVF:
                                                                  1,380 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,465 mL
                                                                  2,215 mL
   Urine:
                                                                  3,355 mL
                                                                  2,015 mL
   NG:
   Stool:
                                                                    110 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                   -274 mL
                                                                 -1,590 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.40/46/60/31/2
   Physical Examination
   Gen: awake, alert, NAD
   CV:  Irregular rhythm, regular rate
   Lungs: nonlabored breathing, NC on 4L, decreased bs at lateral bases
   Abd: +bs, soft, ntnd
   Ext: LE edema resolving, pedal and radial pulses 2+, warm, dry, no
   cyanosis
   Labs / Radiology
   C. diff toxin [**2140-6-4**]: neg
   Urine cx [**2140-6-4**]: yeast
   Blood cx [**2140-6-4**]: pending
   231 K/uL
   10.5 g/dL
   127 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.5 mEq/L
   34 mg/dL
   111 mEq/L
   147 mEq/L
   32.9 %
   12.7 K/uL
        [image002.jpg]
                             [**2140-6-3**]  11:27 PM
                             [**2140-6-4**]  05:00 AM
                             [**2140-6-4**]  12:06 PM
                             [**2140-6-4**]  05:53 PM
                             [**2140-6-5**]  04:00 AM
   WBC
   11.8
   12.2
   12.7
   Hct
   30.2
   29.7
   32.9
   Plt
   [**Telephone/Fax (3) 3497**]
   Cr
   1.1
   1.0
   1.0
   1.0
   TropT
   0.10
   0.09
   0.09
   TCO2
   30
   Glucose
   101
   94
   108
   127
   Other labs: PT / PTT / INR:17.1/36.6/1.5, CK / CKMB /
   Troponin-T:15/4/0.09, ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:42/56, Differential-Neuts:89.5 %, Band:0.0 %,
   Lymph:6.6 %, Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:114 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable off pressors and non-invasive ventilation.
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   - continue lasix gtt, volume goal -100 cc/hr; continue close monitoring
   of BP and electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -repeat CXR in AM; will defer chest CT to assess resolution of bilat
   opacities after significant diuresis (low clinical suspicion for
   parapneumonic or loculated effusion)
   -repeat non-urgent TTE
   .
   #Hypernatremia -free water deficit ~3 L
   -free water boluses 250 cc q4h per NG
   .
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc
   -KUB [**2140-6-4**]: neg for dilated loops of bowel (prelim); no radiologic
   evidence of toxic megacolon; defer abd CT as low clinical suspicion for
   ischemia/megacolon/abscess
   -repeat toxin assay [**2140-6-4**]: negative
   -serial abd exams
   -consider wound care C/S for rectal tube; consider d/c rectal tube if
   decreased output
   .
   #UTI
 inclined to hold off on ABX until culture data available
   - Blood cx [**2140-6-4**]: pending
   - Ucx [**2140-6-4**]: yeast (likely contamination from [**Female First Name (un) 188**] infection in
   groin
currently treated with miconazole powder)
   - foley changed
   #AFib
 adequate rate control
   -cont. amiodarone at 200 mg daily following load @ OSH; holding digoxin
   for now to avoid interaction
   -lovenox bridge f/b coumadin after PICC has been placed and CVL
   removed.
   -continue telemetry
   .
   #CAD - asymptomatic, unchanged EKG on admission, borderline troponin
   (in acute renal failure)
   - borderline CEs: 0.09; stable; repeat if changes in telemetry or if
   she becomes symptomatic
   -cont ASA 325
   .
   #HTN - holding antihypertensives for now, may resume if BP remains
   stable
   #Anemia - Hct 30% below b/l 32-36%, but stable
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -guaiac stools
   -obtain history re: colon CA screening
   -follow Hct daily, as no s/sx bleeding
   -x-fuse for <24%
   .
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 pending
   .
   # Prophylaxis: SQH, PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
   - Trial of pureed foods today.
   -[**Hospital1 **] lytes during diuresis
   .
   # Access: PICC placement today.  Will remove CVL from OSH.
   .
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   .
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   .
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   .
   # Dispo: ICU. Consent pending
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-5**] 02:40 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-6-3**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-06 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PICC line placed [**2140-6-5**]
   IJ CVL from OSH removed
   Pt 24hr UOP: 8 L without hypotension
   Cr: 0.8
   Only complaint is a cough though states ease of breathing is improving.
   Would like to get out of bed to chair today.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2140-6-4**] 08:07 AM
   Vancomycin - [**2140-6-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-6-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-6**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.3
   HR: 76 (49 - 91) bpm
   BP: 147/51(76) {123/36(60) - 160/75(92)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
    CVP: 2 (2 - 7)mmHg
   Total In:
                                                                  3,372 mL
                                                                    705 mL
   PO:
   TF:
                                                                  1,076 mL
                                                                    285 mL
   IVF:
                                                                    745 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  8,375 mL
                                                                  1,690 mL
   Urine:
                                                                  7,975 mL
                                                                  1,690 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -5,003 mL
                                                                   -985 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Gen: NAD, aao
   CV: irregular rhythm, regular rate,
   Lungs: moderate effort, NC 4L, decreased bs at bases bilaterally, no
   wheezes or rhonchi,
   Abd: +bs, soft, ntnd
   Ext: warm, dry, LE edema much improved, 2+ radial pulses, 1+ pedal
   pulses
   Labs / Radiology
   Urine Cx: [**2140-6-3**] and [**2140-6-4**]: yeast
   209 K/uL
   10.6 g/dL
   123 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.5 mEq/L
   34 mg/dL
   103 mEq/L
   145 mEq/L
   32.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2140-6-3**]  11:27 PM
                             [**2140-6-4**]  05:00 AM
                             [**2140-6-4**]  12:06 PM
                             [**2140-6-4**]  05:53 PM
                             [**2140-6-5**]  04:00 AM
                             [**2140-6-5**]  05:11 PM
                             [**2140-6-6**]  04:10 AM
   WBC
   11.8
   12.2
   12.7
   10.0
   Hct
   30.2
   29.7
   32.9
   32.2
   Plt
   [**Telephone/Fax (3) 3505**]09
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.8
   TropT
   0.10
   0.09
   0.09
   TCO2
   30
   Glucose
   101
   94
   108
   127
   179
   123
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB /
   Troponin-T:15/4/0.09, ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:42/56, Differential-Neuts:89.5 %, Band:0.0 %,
   Lymph:6.6 %, Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:114 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable off pressors and non-invasive ventilation.
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   - continue lasix gtt, volume goal >100 cc/hr; continue close monitoring
   of BP and electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -repeat CXR in AM; will defer chest CT to assess resolution of bilat
   opacities after significant diuresis (low clinical suspicion for
   parapneumonic or loculated effusion)
   -repeat non-urgent TTE
   #Hypernatremia: stable Na @ 145
   -cont free water boluses 250 cc q4h per NG
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc
   -KUB [**2140-6-4**]: neg for dilated loops of bowel (prelim); no radiologic
   evidence of toxic megacolon; defer abd CT as low clinical suspicion for
   ischemia/megacolon/abscess
   -repeat toxin assay [**2140-6-4**]: negative
   -serial abd exams
   - continue rectal bag
   #Candiduria: asymptomatic
   - Blood cx [**2140-6-4**]: pending
   - Ucx [**2140-6-4**]: yeast
   - Hold on treatment for now.
   - continue to treat [**Female First Name (un) 188**] infection in groin with miconazole powder
   - once skin infection is under control will consider changing foley and
   reculturing urine
   #AFib
 adequate rate control
   -cont. amiodarone at 200 mg daily following load @ OSH; holding digoxin
   for now to avoid interaction
    -start lovenox today and d/c SQ heparin
   -continue telemetry
   #CAD - asymptomatic, unchanged EKG on admission,
   - borderline troponin: 0.09 (in acute renal failure); stable; repeat if
   changes in telemetry or if she becomes symptomatic
   - cont ASA 325
   #HTN - holding antihypertensives for now, may resume if BP remains
   stable
   #Anemia - Hct 30% below b/l 32-36%, but stable
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -guaiac stools
   -obtain history re: colon CA screening
   -follow Hct daily, as no s/sx bleeding
   -x-fuse for <24%
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 pending
   # Prophylaxis: PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
   - Encourage increased po intake; continue pureed foods
   - [**Hospital1 **] lytes during diuresis
   # Access: PICC RUE
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-6**] 12:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-07 06:26:00 Physician Resident Progress Note
Chief Complaint:  C. diff colitis with fluid overload and A-fib
   24 Hour Events:
   No events overnight.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2140-6-4**] 08:07 AM
   Vancomycin - [**2140-6-5**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2140-6-6**] 10:00 PM
   Pantoprazole (Protonix) - [**2140-6-6**] 11:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-7**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 98 (77 - 104) bpm
   BP: 118/56(73) {108/40(57) - 152/76(92)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  3,485 mL
                                                                  1,166 mL
   PO:
             TF:
                                                                  1,198 mL
                                                                    441 mL
   IVF:
                                                                    758 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  6,715 mL
                                                                  1,940 mL
   Urine:
                                                                  6,715 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,230 mL
                                                                   -774 mL
   Respiratory support
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   Gen: NAD, awake alert
   CV: Irregularly irregular rhythm, regular rate, no M/R/G
   Lungs: CTA B anterior chest, decreased bs lateral chest
   Abd: +bs, soft, ntnd
   Ext: warm, dry, edema improving, 2+ radial pulses, pedal pulses
   nonpalpable
   Labs / Radiology
   210 K/uL
   10.1 g/dL
   129 mg/dL
   0.8 mg/dL
   39 mEq/L
   3.6 mEq/L
   35 mg/dL
   98 mEq/L
   143 mEq/L
   30.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2140-6-3**]  11:27 PM
                             [**2140-6-4**]  05:00 AM
                             [**2140-6-4**]  12:06 PM
                             [**2140-6-4**]  05:53 PM
                             [**2140-6-5**]  04:00 AM
                             [**2140-6-5**]  05:11 PM
                             [**2140-6-6**]  04:10 AM
                             [**2140-6-6**]  04:06 PM
                             [**2140-6-7**]  03:00 AM
   WBC
   11.8
   12.2
   12.7
   10.0
   10.7
   Hct
   30.2
   29.7
   32.9
   32.2
   30.3
   Plt
   [**Telephone/Fax (3) 3505**]09
   210
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.8
   TropT
   0.10
   0.09
   0.09
   TCO2
   30
   Glucose
   101
   94
   108
   127
   179
   123
   123
   129
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB /
   Troponin-T:15/4/0.09, ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:42/56, Differential-Neuts:89.5 %, Band:0.0 %,
   Lymph:6.6 %, Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:114 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable off pressors and non-invasive ventilation.
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   - switch from lasix drip to scheduled lasix IV, start at 40mg IV with
   volume goal >100 cc/hr; continue close monitoring of BP (hold lasix if
   SBP <90) and [**Hospital1 **] electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -repeat CXR in AM; will defer chest CT to assess resolution of bilat
   opacities after significant diuresis (low clinical suspicion for
   parapneumonic or loculated effusion)
   -repeat non-urgent TTE
   #Hypernatremia: stable Na @ 143
   -cont free water boluses 250 cc q4h per NG
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc for a total of 2 wk course per ID
   -KUB [**2140-6-4**]: neg for dilated loops of bowel (prelim); no radiologic
   evidence of toxic megacolon; defer abd CT as low clinical suspicion for
   ischemia/megacolon/abscess
   -repeat toxin assay [**2140-6-4**]: negative
   -serial abd exams
   - continue rectal bag
   #Candiduria: asymptomatic
   - Blood cx [**2140-6-4**]: pending
   - Ucx [**2140-6-4**]: yeast
   - Hold on treatment for now.
   - continue to treat [**Female First Name (un) 188**] infection in groin with miconazole powder
   - once skin infection is under control change foley and reculture urine
   #AFib
 adequate rate control
   -cont. amiodarone at 200 mg daily following load @ OSH; holding digoxin
   for now to avoid interaction
    -continue lovenox and coumadin 2mg (pt reportedly did well on low dose
   prior to this admission)
   - continue telemetry and monitor INR
   #CAD - asymptomatic, unchanged EKG on admission,
   - borderline troponin: 0.09 (in acute renal failure); stable; repeat if
   changes in telemetry or if she becomes symptomatic
   - cont ASA 325
   #HTN - holding antihypertensives for now, may resume if BP remains
   stable
   #Anemia - Hct 30% below b/l 32-36%, but stable
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -guaiac stools
   -obtain history re: colon CA screening
   -follow Hct daily, as no s/sx bleeding
   -x-fuse for <24%
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 pending
    # Prophylaxis: PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
    - Encourage increased po intake; continue pureed foods
   -  [**Hospital1 **] lytes during diuresis
   # Access: PICC RUE
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-7**] 04:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2140-06-08 07:10:00 Physician Resident Progress Note
Chief Complaint: sepsis
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable off pressors and non-invasive ventilation.
   24 Hour Events:
   Patient was switched from a lasix gtt to lasix bolus.  She recieved
   lasix 40 IV x3.  her UOP has been
   Subjective:  Patient denies complaints this morning.  She denies pain.
   She has had poor PO intake (she has a pureed diet ordered).  Her TF
   remain her major source of nutrition.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 81 (72 - 119) bpm
   BP: 130/82(94) {95/30(53) - 147/82(94)} mmHg
   RR: 22 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
   I/O: length of stay -10L
             Total In:
                                                                  3,331 mL
                                                                    834 mL
   PO:
                                                                    120 mL
             TF:
                                                                  1,194 mL
                                                                    315 mL
   IVF:
                                                                    622 mL
                                                                      9 mL
   Blood products:
   Total out:
                                                                  4,855 mL
                                                                  1,290 mL
   Urine:
                                                                  4,855 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,524 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///43/
   Physical Examination
   Gen: frail looking elderly woman, lying in bed in NAD
   Lungs: Crackles at bases bilat
   CV: RRR, S1 & S2 nl, no murmurs apprectiated
   ABD: +bs, nt, nd, soft
   GU: groin yeast infection not examened today
 same per nursing
   Ext: no edema
   Labs / Radiology
   198 K/uL
   9.0 g/dL
   137 mg/dL
   0.9 mg/dL
   43 mEq/L
   3.8 mEq/L
   36 mg/dL
   97 mEq/L
   144 mEq/L
   28.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2140-6-4**]  05:00 AM
                             [**2140-6-4**]  12:06 PM
                             [**2140-6-4**]  05:53 PM
                             [**2140-6-5**]  04:00 AM
                             [**2140-6-5**]  05:11 PM
                             [**2140-6-6**]  04:10 AM
                             [**2140-6-6**]  04:06 PM
                             [**2140-6-7**]  03:00 AM
                             [**2140-6-7**]  04:40 PM
                             [**2140-6-8**]  04:00 AM
   WBC
   12.2
   12.7
   10.0
   10.7
   8.2
   Hct
   29.7
   32.9
   32.2
   30.3
   28.9
   Plt
   [**Telephone/Fax (3) 3540**]10
   198
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   TropT
   0.09
   0.09
   TCO2
   30
   Glucose
   94
   108
   127
   179
   123
   123
   129
   137
   Other labs: INR: 1.2, CK / CKMB / Troponin-T:15/4/0.09,
   ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6, Amylase / Lipase:42/56,
   Differential-Neuts:89.5 %, Band:0.0 %, Lymph:6.6 %, Mono:3.6 %, Eos:0.2
   %,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:114 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: urine
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.008
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Tr
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   Neg
   RBC
   5
   WBC
   1
   Bact
   None
   Yeast
   None
   Epi
   0
   Other Urine Counts
   CastHy: 18
   Mucous: Rare
   Imaging: cxr [**2141-6-7**]
   No significant change in extent of pulmonary edema and large bilateral
   pleural
   effusions.
   Microbiology: urine cx - yeast
   blood cx- pending x2
   c-diff assay neg.
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable off pressors and non-invasive ventilation.
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   - lasix boluses start at 40mg IV with volume goal >100 cc/hr; continue
   close monitoring of BP (hold lasix if SBP <90) and [**Hospital1 **] electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -repeat non-urgent TTE
   -add lisinopril 5mg for afterload reduction
   #Hypernatremia: stable Na @ 143
   -cont free water boluses 250 cc q4h per NG
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc for a total of 2 wk course per ID --- last dose
   should be give on [**6-17**]
   -KUB [**2140-6-4**]: neg for dilated loops of bowel (prelim); no radiologic
   evidence of toxic megacolon; defer abd CT as low clinical suspicion for
   ischemia/megacolon/abscess
   -repeat toxin assay [**2140-6-4**]: negative x1
   -serial abd exams
   - continue rectal bag
   #Candiduria: asymptomatic
   - Blood cx [**2140-6-4**]: pending
   - Ucx [**2140-6-4**]: yeast
   - Hold on treatment for now.
   - continue to treat [**Female First Name (un) 188**] infection in groin with miconazole powder
   - once skin infection is under control change foley and reculture urine
   #AFib
 adequate rate control
   -cont. amiodarone at 200 mg daily following load @ OSH; holding digoxin
   for now to avoid interaction
    -continue lovenox and coumadin 2mg (pt reportedly did well on low dose
   prior to this admission)
   - continue telemetry and monitor INR
   #CAD - asymptomatic, unchanged EKG on admission,
   - borderline troponin: 0.09 (in acute renal failure); stable; repeat if
   changes in telemetry or if she becomes symptomatic
   - cont ASA 325
   #HTN - holding antihypertensives for now, may resume if BP remains
   stable
   #Anemia - Hct 30% below b/l 32-36%, but stable
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -guaiac stools
   -obtain history re: colon CA screening
   -follow Hct daily, as no s/sx bleeding
   -x-fuse for <24%
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 WNL (1.0)
    # Prophylaxis: PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
    - Encourage increased po intake; continue pureed foods
   -  [**Hospital1 **] lytes during diuresis
   # Access: PICC RUE
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-7**] 09:38 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2140-06-08 12:25:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated switch to intermittent lasix
   24 Hour Events:
                       History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2140-6-8**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 83 (71 - 119) bpm
   BP: 125/57(73) {95/30(53) - 147/82(94)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,331 mL
                                                                  1,469 mL
   PO:
                                                                    120 mL
             TF:
                                                                  1,194 mL
                                                                    551 mL
   IVF:
                                                                    622 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  4,855 mL
                                                                  1,600 mL
   Urine:
                                                                  4,855 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,524 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///43/
   Physical Examination
   General Appearance: Frail
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   198 K/uL
   137 mg/dL
   0.9 mg/dL
   43 mEq/L
   3.8 mEq/L
   36 mg/dL
   97 mEq/L
   144 mEq/L
   28.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2140-6-4**]  05:00 AM
                             [**2140-6-4**]  12:06 PM
                             [**2140-6-4**]  05:53 PM
                             [**2140-6-5**]  04:00 AM
                             [**2140-6-5**]  05:11 PM
                             [**2140-6-6**]  04:10 AM
                             [**2140-6-6**]  04:06 PM
                             [**2140-6-7**]  03:00 AM
                             [**2140-6-7**]  04:40 PM
                             [**2140-6-8**]  04:00 AM
   WBC
   12.2
   12.7
   10.0
   10.7
   8.2
   Hct
   29.7
   32.9
   32.2
   30.3
   28.9
   Plt
   [**Telephone/Fax (3) 3540**]10
   198
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   TropT
   0.09
   0.09
   TCO2
   30
   Glucose
   94
   108
   127
   179
   123
   123
   129
   137
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB /
   Troponin-T:15/4/0.09, ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:42/56, Differential-Neuts:89.5 %, Band:0.0 %,
   Lymph:6.6 %, Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:114 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 AORTIC STENOSIS
 AORTIC REGURGITATION (AORTIC INSUFFICIENCY)
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
 TRICUSPID VALVE DISEASE
 HYPERNATREMIA (HIGH SODIUM)
 ACIDOSIS, METABOLIC
 ACIDOSIS, RESPIRATORY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   s/p stent of LCX and RCA and in [**2131**]
 ATRIAL FIBRILLATION (AFIB)
   Continuing to improve slowly. Good diuresis to intermittent iv lasix
   yesterday - still 10-20L overloaded.  HCO3 has been rising so will
   increase CL replacement (as KCL). More alert today. Still taking pos
   poorly. we are supplementing with tube feedings.  We will begin
   afterload reduction.  Needs continued diuresis and further management
   of valvular dis.
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-7**] 09:38 PM 45 mL/hour
   Glycemic Control:
   Lines:  peripheral
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:  systemic anticoag
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: family aware
   Code status: DNR / DNI
   Disposition : to floor
   Total time spent: 35
   ------ Protected Section ------
   Passing blood per rectum. She is anticoagulated (lovenox and
   coumadin).  BP holding. Will consult GI, hold lovenox, monitor hct
   q6h.  Urine output remains good.
   Critically ill
   Time spent
 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2140-6-8**] 21:12 ------

2140-06-09 06:43:00 Physician Resident Progress Note
Chief Complaint: 84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**]
   transferred from OSH for management of C. difficile septic shock,
   currently volume overloaded but stable off pressors and non-invasive
   ventilation.
   24 Hour Events:
   Planned to call her out to the floor when she began putting out BRBPR.
   She put out approx 450 cc of mixed blood and stool early yesterday
   afternoon.  The bleeding then appeared to stop.  NG lavage was
   negative.  GI was consulted and felt that it was most likely due to a
   LGI source (irritation of rectal tube in anticoagulated person).
   She was clinically stable throughout.  GI stated that if she rebleeds
   would most likely refer to angio if acutely unstable.   Holding
   coumadin and lovenox.
   Following Hct 28.9-> 26.9->25.5->24.4
   SUBJECTIVE:
   Patient feels well this morning.  She denies, N/V/ abdominal pain.  She
   denies fevers, chills.  She thinks that she will not be able to be
   continent of stool if we pull the rectal tube.  She prefers to leave
   the rectal tube in.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-8**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-9**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.3
   HR: 79 (71 - 89) bpm
   BP: 121/41(61) {106/37(55) - 149/62(80)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 100%  2L
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,466 mL
                                                                    859 mL
   PO:
             TF:
                                                                    778 mL
                                                                    295 mL
   IVF:
                                                                    208 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    555 mL
   Urine:
                                                                  2,400 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -934 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   ABG:
   Physical Examination
   Gen: alert & oriented x3, pleasant, conversant.
   CV: RRR, S1 & S2 nl, no m/r/g
   Lungs: mild crackles at bases bilat
   Abd: +bs, nt, nd, soft.
   Ext: slightly edematous tibia bilat.
   Labs / Radiology
   217 K/uL
   8.0 g/dL
   114 mg/dL
   0.8 mg/dL
   41 mEq/L
   3.8 mEq/L
   35 mg/dL
   96 mEq/L
   143 mEq/L
   24.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2140-6-5**]  04:00 AM
                             [**2140-6-5**]  05:11 PM
                             [**2140-6-6**]  04:10 AM
                             [**2140-6-6**]  04:06 PM
                             [**2140-6-7**]  03:00 AM
                             [**2140-6-7**]  04:40 PM
                             [**2140-6-8**]  04:00 AM
                             [**2140-6-8**]  02:14 PM
                             [**2140-6-8**]  10:00 PM
                             [**2140-6-9**]  04:00 AM
   WBC
   12.7
   10.0
   10.7
   8.2
   6.6
   Hct
   32.9
   32.2
   30.3
   28.9
   26.9
   25.5
   24.4
   Plt
   [**Telephone/Fax (3) 3546**]98
   217
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   Glucose
   127
   179
   123
   123
   129
   137
   112
   114
   Other labs: PT / PTT / INR:13.7/34.0/1.2,
   CK / CKMB / Troponin-T:15/4/0.09,
   ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6, Amylase / Lipase:42/56,
   Differential-Neuts:89.5 %, Band:0.0 %, Lymph:6.6 %, Mono:3.6 %, Eos:0.2
   %,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:114 IU/L,
    Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Micro:
   Urine cx x2 with yeast, most recent urine cx
 ngtd
   Blood cx x2 ngtd
   C diff neg x1
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable.  Patient developed new GI bleed last night,
   likely from Lower source.  She remains hemodyamically stable.
   #GI bleed
 thought to be secondary to either colonic irritation from
   C. diff with anticoagulation or rectal tube irritation with
   anticoagulation.  Patient
s bleeding spontaneously resolved.  Patient
   had a colonoscopy done 3 years ago.  It did not show any evidence of
   diverticulosis at that time.
   -GI consulted
 follow up on recs
   -hold lovenox and coumadin for 2-3 days.
   -Hct drop from 28.9 to 24.4
 transfuse 1 unit of PRBC given concern
   re: rebleed and likelihood of restarting anticoagulation in next few
   days.
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   - lasix boluses start at 80mg IV BID with volume goal >100 cc/hr;  Will
   also schedule 1 x lasix dose to be given after pt receives unit of
   PRBCs.
   -continue close monitoring of BP (hold lasix if SBP <90) and [**Hospital1 **]
   electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -continue lisinopril 5mg for afterload reduction
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc for a total of 2 wk course per ID --- last dose
   should be give on [**6-17**]
   - continue rectal bag
   # Recent DVT
 patient had U/S at OSH which demonstrated neg DVT in LE
   bilat.
   -          will repeat LE Doppler exam today
   -          start pneumoboots
   -          restart anticoagulation in [**1-3**] days. (lovenox and comadin)
   #Candiduria: asymptomatic
   - UCx [**2140-6-4**]: yeast
   - Hold on treatment for now.
   - continue to treat [**Female First Name (un) 188**] infection in groin with miconazole powder
   - once skin infection is under control change foley and reculture urine
   #AFib
 adequate rate control
   -cont. amiodarone at 200 mg daily following load @ OSH; holding digoxin
   for now to avoid interaction
    -holding lovenox and coumadin
   - continue telemetry and monitor INR
   #CAD - asymptomatic, unchanged EKG on admission,
   - borderline troponin: 0.09 (in acute renal failure); stable; repeat if
   changes in telemetry or if she becomes symptomatic
   - cont ASA 325
   #HTN
 restarted lisinopril
 holding other anti-hypertensives for now.
   SBPs in 120s.
   #Hypernatremia: stable Na @ 143
   -cont free water boluses 250 cc q4h per NG
   #Chronic Anemia
 will transfuse 1 unit of PRBCs with goal of Hct 28.
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -follow Hct daily, as no s/sx bleeding
   -x-fuse for <24%
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 WNL (1.0)
    # Prophylaxis: PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
    - Encourage increased po intake; continue pureed foods
   -  [**Hospital1 **] lytes during diuresis
   # Access: PICC RUE
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-8**] 09:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2140-06-10 07:18:00 Physician Resident Progress Note
Chief Complaint: volume overload
   24 Hour Events:
   --> Received 1 unit of PRCs. Hct 24 -->28, now holding 26.
 ULTRASOUND - At [**2140-6-9**] 10:15 AM
   bilateral lower extremities
 negative for DVT.
 EKG - At [**2140-6-10**] 12:02 AM
   Patient went into Afib rhythm with RVR.  Patient is given metoprolol 5
   mg IV x2 separated by
 hour.  The second dose drops HR to 80s.
   --> Approx an hour after the last dose of metoprolol.  The patietn  had
   an episode of alternating Afib with RVR and bradycardia that almost
   appearst to be a ventricular escape rate.  This episode spontaneously
   resolved.
   --> Responding well to lasix.
   SUBJECTIVE:  Patient reports feeling well.  She is asymptomatic from
   her Afib.  She denies CP/SOB.  The rectal tube was replaced with a
   rectal bag.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-9**] 08:00 AM
   Furosemide (Lasix) - [**2140-6-9**] 08:29 PM
   Metoprolol - [**2140-6-10**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-10**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 91 (35 - 134) bpm
   BP: 128/48(67) {110/42(61) - 149/94(112)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 100%  2L
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                  3,125 mL
                                                                    594 mL
   PO:
                  TF:
                                                                  1,081 mL
                                                                    284 mL
   IVF:
                                                                    109 mL
   Blood products:
                                                                    265 mL
   Total out:
                                                                  4,350 mL
                                                                    970 mL
   Urine:
                                                                  4,250 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  2L
   SpO2: 100%
   ABG: ///40/
   Physical Examination
   Gen: patient lying in bed in NAD
   CV: irregular rhythm, rapid rate.  S1 & s2 nl, no m/r/g
   LUNGS: CTA anteriorly
   ABD: + bs, soft, nt, nd,
   EXT: warm, dry, 2+ radial pulses.
   Labs / Radiology
   229 K/uL
   8.7 g/dL
   128 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.2 mEq/L
   36 mg/dL
   95 mEq/L
   142 mEq/L
   26.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2140-6-6**]  04:06 PM
                             [**2140-6-7**]  03:00 AM
                             [**2140-6-7**]  04:40 PM
                             [**2140-6-8**]  04:00 AM
                             [**2140-6-8**]  02:14 PM
                             [**2140-6-8**]  10:00 PM
                             [**2140-6-9**]  04:00 AM
                             [**2140-6-9**]  05:03 PM
                             [**2140-6-9**]  11:19 PM
                             [**2140-6-10**]  04:27 AM
   WBC
   10.7
   8.2
   6.6
   7.8
   Hct
   30.3
   28.9
   26.9
   25.5
   24.4
   28.2
   26.8
   26.3
   Plt
   [**Telephone/Fax (3) 3553**]29
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   0.9
   0.9
   Glucose
   123
   129
   137
   112
   114
   120
   128
   Other labs: PT / PTT / INR:13.8/27.7/1.2,
   CK / CKMB / Troponin-T:15/4/0.09,
   ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6, Amylase / Lipase:42/56,
   Differential-Neuts:89.5 %, Band:0.0 %, Lymph:6.6 %, Mono:3.6 %, Eos:0.2
   %,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:114 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Micro:
   Blood cx pending x2
   Urine cx
 yeast x3
   C diff neg
   LE doppler [**6-9**]: No evidence of DVT of bilateral lower extremities.
   EKG
 A fib with RVR.
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable.  Patient developed new GI bleed last night,
   likely from Lower source.  She remains hemodyamically stable.
   #GI bleed
 thought to be secondary to either colonic irritation from
   C. diff with anticoagulation or rectal tube irritation with
   anticoagulation.  Patient
s bleeding spontaneously resolved.  Patient
   had a colonoscopy done 3 years ago.  It did not show any evidence of
   diverticulosis at that time.  No bleeding overnight.
   -GI consulted
 follow up on recs.  They do not recommend invasive
   management at this time.
   -hold lovenox and coumadin for 1 more day.
   -follow Hct.  Transfuse for Hct <25.  Goal of 28.
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   - lasix boluses start at 80mg IV BID with volume goal of [**12-2**] L neg over
   24 hrs.
   -continue close monitoring of BP (hold lasix if SBP <90) and [**Hospital1 **]
   electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -continue lisinopril 5mg for afterload reduction
   #AFib
   -concern that we decreased amoidarone dose too quickly.  Amiodarone
   Loaded at OSH
 will reload patient today with amio 150 IV over 10 min then transfer
   to a amio gtt at 0.5-1mg/kg
   - she was started on digoxin at OSH
 but we are holding.
   - holding lovenox and coumadin
   - continue telemetry and monitor INR
   - consider card consult for rhythm if patient becomes hemodynamically
   unstable.
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc for a total of 2 wk course per ID --- last dose
   should be give on [**6-17**]
   - continue rectal bag
   # Recent DVT
 patient had LE U/S which was neg DVT in LE bilat.
   -          start pneumoboots
   -          restart anticoagulation in tomorrow days. (lovenox and
   comadin)
   #Candiduria: asymptomatic
   - UCx x3 positive for yeast
   - Hold on treatment for now.
   - continue to treat [**Female First Name (un) 188**] infection in groin with miconazole powder
   - once skin infection is under control change foley and reculture urine
   #CAD - asymptomatic, unchanged EKG on admission,
   - borderline troponin: 0.09 (in acute renal failure); stable; repeat if
   changes in telemetry or if she becomes symptomatic
   - cont ASA 325
   #HTN
 restarted lisinopril
 holding other anti-hypertensives for now.
   SBPs in 120s.
   #Hypernatremia: stable Na @ 143
   -cont free water boluses 250 cc q4h per NG
   #Chronic Anemia
 will transfuse for Hct <25.  Goal of 28
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -follow Hct daily, as no s/sx bleeding
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 WNL (1.0)
    # Prophylaxis: PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
    - Encourage increased po intake; continue pureed foods
 PO intake is
   improving.
   -  [**Hospital1 **] lytes during diuresis
    # Access: PICC RUE
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   # Dispo: continue ICU management while loading amiodarone.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2140-06-11 06:39:00 Physician Resident Progress Note
Chief Complaint: volume overload, A-fib, c.diff colitis
   24 Hour Events:
   No overnight events
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-9**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-6-10**] 09:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 85 (80 - 109) bpm
   BP: 93/44(55) {93/44(55) - 138/66(79)} mmHg
   RR: 14 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                  2,457 mL
                                                                    881 mL
   PO:
             TF:
                                                                  1,016 mL
                                                                    298 mL
   IVF:
                                                                    321 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                    660 mL
   Urine:
                                                                  3,175 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -918 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   Gen: NAD, asleep
   CV:  irregularly irregular
   Lungs: coarse bs bilaterally, deep breaths induce coughing
   Abd: soft, +bs, ntnd
   Ext:  2+ radial pulses, 1+ pedal pulses, warm dry
   Labs / Radiology
   276 K/uL
   8.6 g/dL
   146 mg/dL
   0.9 mg/dL
   39 mEq/L
   3.9 mEq/L
   37 mg/dL
   94 mEq/L
   141 mEq/L
   26.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2140-6-8**]  04:00 AM
                             [**2140-6-8**]  02:14 PM
                             [**2140-6-8**]  10:00 PM
                             [**2140-6-9**]  04:00 AM
                             [**2140-6-9**]  05:03 PM
                             [**2140-6-9**]  11:19 PM
                             [**2140-6-10**]  04:27 AM
                             [**2140-6-10**]  11:59 AM
                             [**2140-6-10**]  05:03 PM
                             [**2140-6-11**]  05:20 AM
   WBC
   8.2
   6.6
   7.8
   7.4
   Hct
   28.9
   26.9
   25.5
   24.4
   28.2
   26.8
   26.3
   28.1
   25.9
   26.0
   Plt
   198
   217
   229
   276
   Cr
   0.9
   0.8
   0.8
   0.9
   0.9
   0.9
   0.9
   Glucose
   137
   112
   114
   120
   128
   200
   146
   Other labs: PT / PTT / INR:13.4/25.8/1.2, CK / CKMB /
   Troponin-T:15/4/0.09, ALT / AST:[**8-12**], Alk Phos / T Bili:118/0.6,
   Amylase / Lipase:42/56, Differential-Neuts:89.5 %, Band:0.0 %,
   Lymph:6.6 %, Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:114 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Micro:
   Blood cx pending x2
   Urine cx
 yeast x3
   C diff neg
   LE doppler [**6-9**]: No evidence of DVT of bilateral lower extremities.
   EKG
 A fib with RVR.
   Assessment and Plan
   84 y/o F with CAD s/p stents, PAF on coumadin, [**Hospital 741**] transferred from OSH
   for management of C. difficile septic shock, currently volume
   overloaded but stable.  Patient developed new GI bleed last night,
   likely from Lower source.  She remains hemodyamically stable.
   #GI bleed
 thought to be secondary to either colonic irritation from
   C. diff with anticoagulation or rectal tube irritation with
   anticoagulation.  Patient
s bleeding spontaneously resolved.  Patient
   had a colonoscopy done 3 years ago.  It did not show any evidence of
   diverticulosis at that time.  No bleeding overnight.
   -GI consulted
 likely d/t rectal tube, no invasive management at this
   time.
   -will restart lovenox and coumadin today.
   -follow Hct daily.  Transfuse for Hct <25.  Currently 26.
   - guiaic stools
   #CHF - diastolic dysfunction with likely systolic component given
   valvular disease; markedly elevated proBNP; decompensation in the
   setting of massive volume resuscitation and inadequate diuresis at OSH
   -increase lasix boluses to 80mg IV TID with volume goal of [**12-2**] L neg
   over 24 hrs.
   -continue close monitoring of BP (hold lasix if SBP <90) and [**Hospital1 **]
   electrolytes
   -cont. suppl. O2 to maintain sat > 92%
   -continue lisinopril 5mg for afterload reduction
   #AFib
   -concern that we decreased amoidarone dose too quickly on admission.
   Amiodarone was loaded at OSH
 reload patient yesterday with amio 150 IV over 10 min then
   transferred to a amio gtt at 0.5-1mg/kg
   - switch to po amiodarone 200mg [**Hospital1 **]
   - she was started on digoxin at OSH
 but we are holding.
   - restart lovenox and coumadin
   - continue telemetry and monitor INR
   - consider card consult for rhythm if patient becomes hemodynamically
   unstable.
   #C. diff - clinically no longer septic, abdominal exam benign, lactate
   WNL
   - continue po vanc for a total of 2 wk course per ID --- last dose
   should be give on [**6-17**]
   - rectal bag and tube d/c
d secondary to GI bleed and skin irritation.
   # Recent DVT
 patient had LE U/S which was neg DVT in LE bilat.
   -          stop pneumoboots
   -          restart anticoagulation in today. (lovenox and comadin)
   #Candiduria: asymptomatic
   - UCx x3 positive for yeast
   - Hold on treatment for now.
   - continue to treat [**Female First Name (un) 188**] infection in groin with miconazole powder
   - once skin infection is under control change foley and reculture urine
   #CAD - asymptomatic, unchanged EKG on admission,
   - borderline troponin: 0.09 (in acute renal failure); stable; repeat if
   changes in telemetry or if she becomes symptomatic
   - cont ASA 325
   #HTN
 restarted lisinopril
 holding other anti-hypertensives for now.
   SBPs in 120s.
   #Hypernatremia: stable Na @ 141
   -cont free water boluses 250 cc q4h per NG
   #Chronic Anemia
 will transfuse for Hct <25.
   -iron studies c/w combination Fe deficiency, ACD
   -consider suppl. iron after diarrheal illness subsides as c/f
   constipation
   -follow Hct daily, as no s/sx bleeding
   #Elevated TSH ([**2140-6-3**]: TSH: 4.4)
   -fT4 WNL (1.0)
    # Prophylaxis: PPI; aspiration/fall precautions
   # F/E/N:
   - On tube feeds per nutrition recs currently at goal with 250 free
   water boluses q4h
    - Encourage increased po intake; continue pureed foods
 PO intake is
   improving.
   -  [**Hospital1 **] lytes during diuresis
    # Access: PICC RUE
   # Contact: [**Name (NI) **] [**Name (NI) 3466**], husband, [**Telephone/Fax (1) 3467**] (home)
   PCP: [**Name10 (NameIs) **],[**Name11 (NameIs) **] [**Name Initial (NameIs) **]. [**Telephone/Fax (1) 3468**]
   # Code: DNR/DNI (decision made after conversation with pt and pts
   family on [**2140-6-4**])
   # Dispo: to floor after completing amiodarone load
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**12-2**]) - [**2140-6-11**] 12:24 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-6-5**] 11:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: